US06740662B1
To 370 mg of ethyl {4-[4-(3-bromophenyl)-1-ethyl-7-methyl-2-oxo-1,2-dihydro-1,8-naphthyridin-3-yl]piperidin-1-yl}acetate was added 5 ml of 6M hydrochloric acid, followed by stirring at 100° C. for 15 hours. After removal of the solvent, the resulting crude crystals were recrystallized from ethanol-acetonitrile to obtain 185 mg of {4-[4-(3-bromophenyl)-1-ethyl-7-methyl-2-oxo-1,2-dihydro-1,8-naphthyridin-3-yl]piperidin-1-yl}acetic acid monohydrochloride as colorless crystals.

reactant | ethyl {4-[4-(3-bromophenyl)-1-ethyl-7-methyl-2-oxo-1,2-dihydro-1,8-naphthyridin-3-yl]piperidin-1-yl}acetate | 370 mg | BrC=1C=C(C=CC1)C1=C(C(N(C2=NC(=CC=C12)C)CC)=O)C1CCN(CC1)CC(=O)OCC | C26H30BrN3O3
reactant | hydrochloric acid | 6M, 5 ml | Cl | ClH
product | {4-[4-(3-bromophenyl)-1-ethyl-7-methyl-2-oxo-1,2-dihydro-1,8-naphthyridin-3-yl]piperidin-1-yl}acetic acid monohydrochloride | 185 mg | Cl.BrC=1C=C(C=CC1)C1=C(C(N(C2=NC(=CC=C12)C)CC)=O)C1CCN(CC1)CC(=O)O | InChI=1S/C24H26BrN3O3.ClH/c1-3-28-23-19(8-7-15(2)26-23)21(17-5-4-6-18(25)13-17)22(24(28)31)16-9-11-27(12-10-16)14-20(29)30;/h4-8,13,16H,3,9-12,14H2,1-2H3,(H,29,30);1H
